Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10],3.64890887237
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])=[C:7][H:8]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],-0.975159100176
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-5.583198160419999
[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1][C@@:2]1([H:3])[C@@:4]([H:5])([O:6][H:7])[C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-0.0136496942396
[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5],2.60537740493
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:11][H:12],2.10051465855
[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-8.37818067854
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][H:10]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][H:10].[O:1]=[C:2][H:3],5.19227733858
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],1.29635493416
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]#[C:8][O:9][H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7]=[C:8]=[O:9],1.817382287
[H:1][C:2]([H:3])[C:4]([H:5])([C:6]([H:7])[H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]([H:7])[H:8],1.4733639710600002
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:7].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.79370075641
[H:1][O:2][C:3]([H:4])[C@@:5]1([C:6]([H:7])([H:8])[H:9])[O:10][C:11]1[H:12]>>[H:1][O:2]/[C:3]([H:4])=[C:5](/[C:6]([H:7])([H:8])[H:9])[O:10][C:11][H:12],-0.17412274973900002
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],4.78951229706
[C:1]#[C:2].[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-5.31653387047
[C:1][O:2][C:3]([O:4][C:5][H:6])=[C:7]([H:8])[H:9]>>[C:1]=[O:2].[C:3]([O:4][C:5][H:6])=[C:7]([H:8])[H:9],-1.26113853651
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-0.946680947271
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.1869652723
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.34831343975
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.26076464388
[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-4.975053406080001
[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.60236226392
[C:2]([H:3])#[C:4][C:5]([H:6])[O:7][H:8].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[H:6])[O:7][H:8],-4.41977159091
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],3.68937085706
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:7],3.710707079130002
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:10][H:11])[O:12][H:13].[H:9],4.15235987333
[C:3]([H:4])=[C:5]([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],-6.1191543199
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4](\[H:5])(=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3],0.84040486
